US06562978B1
1-tert-Butoxycarbonyl-4-(pyrazol-1-ylmethyl)piperidine
By a similar manner to Reference Example 29, 1-tert-butoxycarbonyl-piperidin-4-methanol (1.08 g, 5.0 mmol) was reacted with pyrazole (1.02 g, 1.5 mmol) to give the titled compound as pale yellow oily substance (980 mg, 74%).

reactant | 1-tert-butoxycarbonyl-piperidin-4-methanol | 5.0 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | pyrazole | 1.5 mmol, 1.02 g | N1N=CC=C1 | C3H4N2
product | 1-tert-Butoxycarbonyl-4-(pyrazol-1-ylmethyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1N=CC=C1 | C14H23N3O2
